US08912188B2
To a solution of methyl 3-[cyclopropyl(methyl)amino]-2-(2-methyl-1H-indol-5-yl)quinoxaline-6-carboxylate (74.7 mg, 0.19 mmol) in methanol (30 ml) was added NaOH (32 mg, 0.80 mmol), water (1 ml) with stirring overnight at room temperature. The resulting solution was extracted ethyl acetate (2×50 ml), and adjusted pH to 5 with AcOH. The resulting solution was extracted with ethyl acetate (3×30 ml), dried over anhydrous sodium sulfate, concentrated under vacuum to give a residue, which was purified via silica gel chromatography (20% methanol in ethyl acetate) to afford 3-[cyclopropyl(methyl)amino]-2-(2-methyl-1H-indol-5-yl)quinoxaline-6-carboxylic acid as a yellow solid (13.6 mg, 19%).

reactant | methyl 3-[cyclopropyl(methyl)amino]-2-(2-methyl-1H-indol-5-yl)quinoxaline-6-carboxylate | 0.19 mmol, 74.7 mg | C1(CC1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=C2C=C(NC2=CC1)C)C | C23H22N4O2
reactant | NaOH | 0.80 mmol, 32 mg | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | 3-[cyclopropyl(methyl)amino]-2-(2-methyl-1H-indol-5-yl)quinoxaline-6-carboxylic acid | 13.6 mg, 19% | C1(CC1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C=1C=C2C=C(NC2=CC1)C)C | C22H20N4O2
